US06087380
1-Methyl-2-[N-[4-(N-n-hexyloxycarbonylamidino)phenyl]-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-methoxycarbonylethyl)-amide
Prepared analogously to Example 90 from 1-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-methoxycarbonylethyl)-amide-hydrochloride and n-hexyl chloroformate. Yield: 51% of theory, C33H39N7O5 (613.7) Rf value: 0.56 (silica gel; dichloromethane/methanol=9:1) ##EQU76##

reactant | 1-methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-methoxycarbonylethyl)-amide-hydrochloride | Cl.N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OC
reactant | n-hexyl chloroformate | ClC(=O)OCCCCCC | C7H13ClO2
solvent | dichloromethane methanol | ClCCl.CO
product | 1-Methyl-2-[N-[4-(N-n-hexyloxycarbonylamidino)phenyl]-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-methoxycarbonylethyl)-amide | Yield: 51% | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(NC(=O)OCCCCCC)=N)C)C=C1)CCC(=O)OC | C33H39N7O5
